US04751295
7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-[3-pyridinio-1-propen-1-yl]-3-cephem-4-carboxylate (I-1B)
A mixture of diphenylmethyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylate (IX-1) (E, 716 mg, 1 mmole), pyridine (158 mg, 2 mmoles) in dimethylsulfoxide (DMSO) (1 ml) was stirred for 1 hour at room temperature. To the mixture was added ethyl acetate (20 ml) to precipitate a solid (620 mg), which was added to formic acid (6 ml) containing sodium bisulfite (60 mg). The mixture was stirred for 30 minutes at 40° C. and concentrated to dryness. The residue was dissolved in H2O (40 ml) and some insolubles were removed. The aqueous solution was charged on a column of reverse phase (PrepPAK-500/C18, 100 ml) eluting with H2O (300 ml) and 5% aqueous CH3OH (800 ml), and the eluate was monitored by uv (254 nm) and HPLC. The fractions (5% aqueous CH3OH) containing the desired product were combined, concentrated to a small volume and lyophilized to yield 40 mg (8%) of the title compound (I-1B), melting at >200° C. (dec.).

reactant | diphenylmethyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylate | 1 mmole, 716 mg | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CCI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C28H25IN6O5S2
reactant | pyridine | 2 mmoles, 158 mg | N1=CC=CC=C1 | C5H5N
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-[3-pyridinio-1-propen-1-yl]-3-cephem-4-carboxylate | 40 mg, 8% | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC[N+]2=CC=CC=C2)C(=O)[O-])C1=O)=NOC | C20H19N7O5S2
